US06992087B2
Preparation of benzyl (3R,4S)-3-{[5-(2-chloro-4-methoxyphenyl)-3,6-diethylpyrazin-2-yl]amino}-4-(2-fluoroethoxy)pyrrolidine-1-carboxylate
Following the procedure for the preparation of 5-(2,4-dichlorophenyl)-N-[(1R,2S)-2-ethoxy-2,3-dihydro-1H-inden-1-yl]-3,6-diethylpyrazin-2-amine but benzyl (3R,4S)-3-{[5-(2-chloro-4-methoxyphenyl)-3,6-diethylpyrazin-2-yl]amino}-4-hydroxypyrrolidine-1-carboxylate and 1-bromo-2-fluoro ethane, and making non-critical variations provided the title compound as a oil: 1H NMR (DMSO-d6) δ) 1.07, 1.14, 2.36, 2.65, 3.60, 3.72, 3.79, 3.82, 4.27, 4.42, 4254, 4.62, 5.09, 5.95, 6.98, 7.11, 7.25, 7.38; IR (diffuse reflectance) 2350 (w), 2337 (w), 2058 (w), 1952 (w), 1940 (w), 1710 (s), 1569, 1552, 1483 (s), 1459, 1419 (s), 1397, 1353, 1287, 1228, cm−1 HRMS (FAB) calcd for C29H34ClFN4O4+H 557.2330, found 557.2338.

reactant | 5-(2,4-dichlorophenyl)-N-[(1R,2S)-2-ethoxy-2,3-dihydro-1H-inden-1-yl]-3,6-diethylpyrazin-2-amine | ClC1=C(C=CC(=C1)Cl)C=1N=C(C(=NC1CC)N[C@H]1[C@H](CC2=CC=CC=C12)OCC)CC | C25H27Cl2N3O
reactant | benzyl (3R,4S)-3-{[5-(2-chloro-4-methoxyphenyl)-3,6-diethylpyrazin-2-yl]amino}-4-hydroxypyrrolidine-1-carboxylate | ClC1=C(C=CC(=C1)OC)C=1N=C(C(=NC1CC)N[C@@H]1CN(C[C@@H]1O)C(=O)OCC1=CC=CC=C1)CC | C27H31ClN4O4
reactant | 1-bromo-2-fluoro ethane | BrCCF | C2H4BrF
product | benzyl (3R,4S)-3-{[5-(2-chloro-4-methoxyphenyl)-3,6-diethylpyrazin-2-yl]amino}-4-(2-fluoroethoxy)pyrrolidine-1-carboxylate | ClC1=C(C=CC(=C1)OC)C=1N=C(C(=NC1CC)N[C@@H]1CN(C[C@@H]1OCCF)C(=O)OCC1=CC=CC=C1)CC | C29H34ClFN4O4
